US08735384B2
A solution of 4-amino-2′-methyl-6′-(pyrrolidine-1-carbonyl)biphenyl-3-carbaldehyde (0.100 g, 0.324 mmol) in DMSO (3.0 mL) was added to an 80° C. solution of 2-((1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl)acetonitrile (0.067 g, 0.486 mmol) and potassium hydroxide (0.016 g, 0.28 mmol) (11 M aq., 44 uL) in DMSO (1.25 mL) in 4 portions at 15 min intervals. The resulting mixture was heated for 18 h, cooled, filtered and purified by prep HPLC (12-51% CH3CN/water, 0.1% TFA) to give (2-(2-amino-3-((1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone as a yellow solid. MS (ESI, pos. ion) m/z: 429 (M+1).

reactant | 4-amino-2′-methyl-6′-(pyrrolidine-1-carbonyl)biphenyl-3-carbaldehyde | 0.324 mmol, 0.100 g | NC1=C(C=C(C=C1)C1=C(C=CC=C1C(=O)N1CCCC1)C)C=O | C19H20N2O2
reactant | 2-((1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl)acetonitrile | 0.486 mmol, 0.067 g | [C@@H]12OC[C@@H](N(C1)CC#N)C2 | C7H10N2O
reactant | potassium hydroxide | 0.28 mmol, 11 M, 44 uL, 0.016 g | [OH-].[K+]
solvent | DMSO | 3.0 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1.25 mL | CS(=O)C | C2H6OS
product | (2-(2-amino-3-((1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | NC1=NC2=CC=C(C=C2C=C1N1[C@@H]2CO[C@H](C1)C2)C2=C(C=CC=C2C)C(=O)N2CCCC2 | C26H28N4O2
